US04155909
To 25.0 g (0.134 mol) of 2-(1-pyrrolidinyl)-2-(2-pyridyl)acetonitrile, prepared by the reaction of pyridine-2-carboxaldehyde with potassium cyanide and pyrrolidinium perchlorate, in 75 ml dry dimethylsulfoxide and 200 ml tetrahydrofuran at -10° was added 7.75 g (0.161 mol) of 50% sodium hydride dispersion. After no further gas evolution was observed, a solution of 22.34 g (0.161 mol) of methyl iodide in 10 ml tetrahydrofuran was added over a 10 minute period. After addition had been completed, the reaction mixture was warmed to 40° for two minutes and cooled to 15°. The reaction mixture was filtered and the precipitate was washed with methylene chloride. The filtrates were combined, washed with saturated sodium chloride solution, and dried over sodium sulfate. Removal of the solvent gave 24.75 g (92%) of the crude product, 2-(1-pyrrolidinyl)-2-(2-pyridyl)propionitrile. The total crude product was dissolved in 500 ml 95% ethanol, cooled to 5° and treated with 9.3 g (0.245 mol) sodium borohydride. The reaction mixture was stirred at room temperature for 20 hours and the filtered. Removal of the solvent at reduced pressure gave a tan oil which was dissolved in hexane and dried over sodium sulfate. The hexane solution was then filtered and concentrated. The crude product was distilled (78°-80°/0.2 mm Hg) to give 20.77 g (88%) of 1-(1-pyrrolidinyl)-1-(2-pyridyl)ethane.

reactant | 2-(1-pyrrolidinyl)-2-(2-pyridyl)acetonitrile | 0.134 mol, 25.0 g | N1(CCCC1)C(C#N)C1=NC=CC=C1 | C11H13N3
reactant | pyridine-2-carboxaldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | potassium cyanide | [C-]#N.[K+]
reactant | pyrrolidinium perchlorate | Cl(=O)(=O)(=O)[O-].[NH2+]1CCCC1
reactant | sodium hydride | 0.161 mol, 7.75 g | [H-].[Na+]
reactant | methyl iodide | 0.161 mol, 22.34 g | CI | CH3I
reactant | sodium borohydride | 0.245 mol, 9.3 g | [BH4-].[Na+]
solvent | dimethylsulfoxide | 75 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(1-pyrrolidinyl)-1-(2-pyridyl)ethane | 20.77 g, 88% | N1(CCCC1)C(C)C1=NC=CC=C1 | C11H16N2
